US08471027B2
A mixture of 4-[(E)-3-oxo-3-(2-phenylamino-pyridin-3-yl)-propenyl]-benzoic acid methyl ester (2.45 g, 6.84 mmol) and ethyl acetate (280 mL, 0.024M) was treated with 10% palladium on carbon (0.24 g, 10% weight of starting material used). The flask was fitted with a hydrogen balloon, and the reaction stirred at 25° C. overnight. At this time, the reaction was filtered through a pad of Celite®, rinsed with ethyl acetate, and concentrated in vacuo. Flash chromatography (AnaLogix Intelliflash 280, 80 g silica gel column, 1-20% ethyl acetate/hexanes) afforded 4-[3-oxo-3-(2-phenylamino-pyridin-3-yl)-propyl]-benzoic acid methyl ester (2.00 g, 81%) as an orange solid.

reactant | 4-[(E)-3-oxo-3-(2-phenylamino-pyridin-3-yl)-propenyl]-benzoic acid methyl ester | 6.84 mmol, 2.45 g | COC(C1=CC=C(C=C1)\C=C\C(C=1C(=NC=CC1)NC1=CC=CC=C1)=O)=O | C22H18N2O3
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 0.24 g | [Pd] | Pd
solvent | ethyl acetate | 0.024M, 280 mL | C(C)(=O)OCC | C4H8O2
product | 4-[3-oxo-3-(2-phenylamino-pyridin-3-yl)-propyl]-benzoic acid methyl ester | 2.00 g, 81% | COC(C1=CC=C(C=C1)CCC(C=1C(=NC=CC1)NC1=CC=CC=C1)=O)=O | C22H20N2O3
